US06525042B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[(thiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride
In a similar manner to Example 4 except for the use of sodium thiazolo[5,4-c]pyridine-2-carboxylate and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | sodium thiazolo[5,4-c]pyridine-2-carboxylate | N1=C(SC=2C=NC=CC21)C(=O)[O-].[Na+]
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[(thiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC=2C=NC=CC2N1 | InChI=1S/C21H17ClN4O3S2.ClH/c22-16-3-1-15-12-17(4-2-14(15)11-16)31(28,29)26-9-7-25(8-10-26)21(27)20-24-18-5-6-23-13-19(18)30-20;/h1-6,11-13H,7-10H2;1H
